US04547506
2-[N-(3-aminopropyl)-N-methylamino]pyridine (0.81 g) and 2-methylthio-5-phenylethylpyrimid-4-one (1.0 g) were heated together under reflux in pyridine (2.5 ml) for 26 hr. After stripping, the residue was crystallised twice from ethanol and finally from acetone to give 2-[3-(N-methyl-N-pyrid-2-ylamino)propylamino]-5-phenylethylpyrimid-4-one, 0.68 g (46%) mp 134°-136° C.

reactant | 2-[N-(3-aminopropyl)-N-methylamino]pyridine | 0.81 g | NCCCN(C)C1=NC=CC=C1 | C9H15N3
reactant | 2-methylthio-5-phenylethylpyrimid-4-one | 1.0 g | CSC1=NC=C(C(N1)=O)CCC1=CC=CC=C1 | C13H14N2OS
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-(N-methyl-N-pyrid-2-ylamino)propylamino]-5-phenylethylpyrimid-4-one | CN(C1=NC=CC=C1)CCCNC1=NC=C(C(N1)=O)CCC1=CC=CC=C1 | C21H25N5O
